US07713994B2
C-(1H-Indol-6-yl)-methylamine
An amount of 1H-Indole-6-carbaldehyde O-methyl-oxime (150 mg, 0.86 mmol) is dissolved in ethanol (6.5 mL). Then hydrogen chloride (0.62 mL) is added, followed by 10% Pd/C (15 mg). After hydrogenation at 35 psi for 3 h, the solution is filtered through Celite and evaporated to dryness. The residue is recrystallized from ethyl acetate to give 110 mg of crude product as a yellow solid. MS (ESI) m/z 147.3 (M+1).

reactant | 1H-Indole-6-carbaldehyde O-methyl-oxime | 0.86 mmol, 150 mg | CON=CC1=CC=C2C=CNC2=C1 | C10H10N2O
reactant | hydrogen chloride | 0.62 mL | Cl | ClH
solvent | ethanol | 6.5 mL | C(C)O | C2H6O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | C-(1H-Indol-6-yl)-methylamine | 110 mg | N1C=CC2=CC=C(C=C12)CN | C9H10N2
